US07288544B2
Synthesis of 4-(3,4-dichlorophenyl)-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide
100 mg (0.224 mmol) of 4-(3,4-dichlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide was dissolved in 5 ml of dichloromethane. 77.3 mg (0.448 mmol) of mCPBA (m-chloroperbenzoic acid; hereinafter abbreviated as mCPBA) was added thereto at 0° C. and stirred at the same temperature for 6 hours. 1 ml of saturated aqueous sodium sulfite solution was added thereto at the same temperature and stirred for 30 minutes heating to room temperature. After the reaction mixture was diluted with dichloromethane, the organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was dissolved in 5 ml of ethanol and 16.9 mg (0.448 mmol) of sodium borohydride was added at room temperature and stirred for 1 hour. 5 ml of 1N hydrochloric acid was added at the same temperature, stirred at room temperature for 30 minutes and then concentrated under reduced pressure. After the obtained residue was diluted with dichloromethane, the organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=3/1) to obtain the title compound.

reactant | 4-(3,4-dichlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | 0.224 mmol, 100 mg | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)SC | C22H21Cl2N3OS
reactant | mCPBA | 0.448 mmol, 77.3 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | 1 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium borohydride | 0.448 mmol, 16.9 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(3,4-dichlorophenyl)-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=CC1Cl)C1=NC=NC(=C1C(=O)NCCCC1=CC=CC=C1)C | C21H19Cl2N3O
